US06992094B1
6-(3-(2-Hydroxyethoxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl)nicotinic acid
In a manner similar to that of Example 2, by reaction of 419 mg (0.81 mmol) of ethyl 6-[3-(2-acetoxyethoxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl]nicotinate with 320 mg (8 mmol) of sodium hydroxide in a THF/ethanol mixture (4 ml/4 ml), 273 mg (75%) of a white powder are obtained. m.p.: 170° C.

reactant | ethyl 6-[3-(2-acetoxyethoxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl]nicotinate | 0.81 mmol, 419 mg | C(C)(=O)OCCOC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)[Se]C1=NC=C(C(=O)OCC)C=C1 | C26H33NO5Se
reactant | sodium hydroxide | 8 mmol, 320 mg | [OH-].[Na+]
solvent | THF ethanol | 4 ml | C1CCOC1.C(C)O
product | 6-(3-(2-Hydroxyethoxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl)nicotinic acid | OCCOC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)[Se]C1=NC=C(C(=O)O)C=C1 | C22H27NO4Se
